US07423030B2
29.4. 4-(4-Fluorophenyl)-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting 1-chloro-4-(4-fluorophenyl)-7-methoxyphthalazine with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 1-chloro-4-(4-fluorophenyl)-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)F | C15H10ClFN2O
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 4-(4-Fluorophenyl)-7-methoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | FC1=CC=C(C=C1)C1=NN=C(C2=CC(=CC=C12)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C31H29FN4O
